US09371322B2
Synthesis of ethyl 6-((tert-butoxycarbonylamino)methyl)piperidine-2-carboxylate
Ethyl 6-((tert-butoxycarbonylamino)methyl)picolinate (8.74 g, 31.2 mmol) was dissolved in AcOH and degassed with argon in a reactor (Roth), then catalytical amount PtO2 was added and degassed with argon again. The reaction was stirred at room temperature under H2 (40 bar) for 3 days. 8a was not fully converted. The reaction mixture was filtered through celite, concentrated in vacuo and purified with flash chromatography in EE. The retrieval of 8a was repeated until 100% converted with the same procedure.

reactant | Ethyl 6-((tert-butoxycarbonylamino)methyl)picolinate | 31.2 mmol, 8.74 g | C(C)(C)(C)OC(=O)NCC1=CC=CC(=N1)C(=O)OCC | C14H20N2O4
solvent | AcOH | CC(=O)O | C2H4O2
product | ethyl 6-((tert-butoxycarbonylamino)methyl)piperidine-2-carboxylate | C(C)(C)(C)OC(=O)NCC1CCCC(N1)C(=O)OCC | C14H26N2O4
